US07157455B2
The same procedure as described in Example 47 was used, starting from 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide, Example 1, and 2-bromo-4-chloroanisole (Aldrich), to give (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(5-chloro-2-methoxy-phenyl)-methanone as a white solid. MS (M+H)+, 324.

reactant | 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C(=NC(=NC1)SCC)N)C | C9H14N4O2S
reactant | 2-bromo-4-chloroanisole | BrC1=C(C=CC(=C1)Cl)OC | C7H6BrClO
product | (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(5-chloro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)Cl)OC)SCC | C14H14ClN3O2S
